US08202858B2
N-Cyclohexyl-benzene-1,2-diamine
Cyclohexyl-(2-nitro-phenyl)-amine from Example E26.1 (3.0 g, 13.6 mmol) was dissolved in methanol (100 ml) and tin (II) chloride (12.9 g, 68.1 mmol) was added. The mixture was stirred for 20 h at room temperature then heated at reflux for 18 h and concentrated in vacuo. The residue was placed in EtOAC (100 ml), cooled down to 0° C. and pH was adjusted to 14 with conc. NH3. The precipitate was filtered off and washed with EtOAc. The filtrate was washed with 2M NH3, water then brine, dried and concentrated in vacuo to yield the title compound (2.25 g, 86%).

reactant | Cyclohexyl-(2-nitro-phenyl)-amine | C1(CCCCC1)NC1=C(C=CC=C1)[N+](=O)[O-] | C12H16N2O2
reactant | tin (II) chloride | 68.1 mmol, 12.9 g | [Sn](Cl)Cl
solvent | methanol | 100 ml | CO | CH4O
product | N-Cyclohexyl-benzene-1,2-diamine | 2.25 g, 86% | C1(CCCCC1)NC=1C(=CC=CC1)N | C12H18N2
